Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ male with history of
suspected microscopic colitis on budesonide and followed by Dr.
___ who presents with fever, chills and profuse
watery diarrhea. 

Patient states yesterday was normal until he went to bed. He
states he started having persistent fevers and chills. He then
had 2 episodes of nonbloody nonbilious emesis. Following that he
developed profuse watery diarrhea. He is going every hour and is
not able to control it. No significant focal abdominal pain
although he is diffusely tender. No history of C. difficile. No
recent antibiotics. No blood in the stools.

In the ED: 
Initial VS: 104.4 140 100/51 20 99% RA.
PE: Febrile, Tachycardic, Abdomen soft and nondistended
Labs: CRP of 122.6, WBCs of 11.5, lactate 1.4, hypomagnesemia 
and
hypophosphatemia, otherwise largely normal.
Imaging: CT A/P showing procto-pancolitis, which may be
infectious or inflammatory in nature. Splenomegaly up to 14.5cm
Received IVFs, Cipro, Flagyl and Hydrocortisone. 
Consults: GI e-consulted felt most likely infectious, no need 
for
high dose steroids, continue Cipro/flagyll

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
COLITIS                                                         
ESOPHAGEAL REFLUX DISEASE                                       
WEIGHT LOSS                                                     
LACTOSE INTOLERANCE    
 
Social History:
Social History
Marital status:     Single                                      
Children:           No                                          
Lives with:         Other: roomates                             
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ activity:    Past                                        
Sexual orientation: Male and Female                             
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      Condoms - Male                              
Tobacco use:        Never smoker                                
Alcohol use:        Past and Present                            
drinks per week:    4                                           
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities                                  
Diet:               healthy diet           
 
Family History:
Family History
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  CELIAC DISEASE             colitis too    
                      HYPOTHYROIDISM                            
Father   Living   ___                                            
Sister   Living   ___                                            
Sister   Living   ___                                            
Brother  Living   ___    
 
Physical Exam:
Admission:
Gen - non-toxic appearing, overall weak, NAD
Eyes - anicteric
ENT - dry MMM
Heart - RRR, no r/m/g
Lungs - nonlabored breathing, CTAB
Abd - soft ntnd
Ext - no pedal edema
Skin - no skin rashes
Vasc - WWP
Neuro - A&Ox4, motor and sensory exam grossly normal
Psych - pleasant, calm cooperative

Discharge:
Gen - non-toxic appearing, NAD
Eyes - anicteric
ENT - slightly dry MM
Heart - RRR, no r/m/g
Lungs - nonlabored breathing, CTAB
Abd - soft ntnd, normal BS, no hepatosplenomegaly 
Ext - no pedal edema
Skin - no skin rashes
Vasc - WWP
Neuro - A&Ox4, motor and sensory exam grossly normal
Psych - pleasant, calm cooperative

 
Pertinent Results:
Admission:

___ 05:38AM   GLUCOSE-129* UREA N-10 CREAT-0.9 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-108 TOTAL CO2-23 ANION GAP-9*
___ 05:38AM   ALT(SGPT)-32 AST(SGOT)-31 LD(LDH)-206 ALK 
PHOS-60 TOT BILI-1.0
___ 05:38AM   CALCIUM-8.1* PHOSPHATE-4.2 MAGNESIUM-2.3
___ 05:38AM   WBC-8.0 RBC-4.09* HGB-13.2* HCT-38.8* MCV-95 
MCH-32.3* MCHC-34.0 RDW-13.0 RDWSD-45.1
___ 05:38AM   PLT COUNT-150
___ 06:45PM URINE  HOURS-RANDOM
___ 06:45PM URINE  UHOLD-HOLD
___ 06:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:15PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 05:06PM   LACTATE-1.4
___ 05:00PM   GLUCOSE-127* UREA N-11 CREAT-1.2 SODIUM-137 
POTASSIUM-3.5 CHLORIDE-99 TOTAL CO2-23 ANION GAP-15
___ 05:00PM   estGFR-Using this
___ 05:00PM   ALT(SGPT)-31 AST(SGOT)-25 ALK PHOS-80 TOT 
BILI-1.3
___ 05:00PM   LIPASE-15
___ 05:00PM   ALBUMIN-3.5 CALCIUM-8.5 PHOSPHATE-2.6* 
MAGNESIUM-1.4*
___ 05:00PM   CRP-122.6*
___ 05:00PM   NEUTS-68.6 ___ MONOS-10.9 EOS-0.0* 
BASOS-0.3 IM ___ AbsNeut-7.90* AbsLymp-2.29 AbsMono-1.26* 
AbsEos-0.00* AbsBaso-0.04
___ 05:00PM   WBC-11.5* RBC-4.66 HGB-15.0 HCT-42.9 MCV-92 
MCH-32.2* MCHC-35.0 RDW-13.0 RDWSD-43.4
___ 05:00PM   PLT COUNT-198
___ 05:00PM   ___ PTT-31.6 ___

Discharge:

___ 07:42AM BLOOD WBC-5.3 RBC-4.05* Hgb-13.1* Hct-38.8* 
MCV-96 MCH-32.3* MCHC-33.8 RDW-12.7 RDWSD-44.9 Plt ___
___ 04:53AM BLOOD Neuts-66.7 ___ Monos-8.7 Eos-0.4* 
Baso-0.3 Im ___ AbsNeut-4.89 AbsLymp-1.72 AbsMono-0.64 
AbsEos-0.03* AbsBaso-0.02
___ 07:42AM BLOOD Plt ___
___ 04:53AM BLOOD ___ PTT-27.0 ___
___ 07:42AM BLOOD Glucose-103* UreaN-7 Creat-0.9 Na-146 
K-3.9 Cl-110* HCO3-29 AnGap-7*

Imaging:
 Other Pertinent Studies: 

CT A/P: 
1. Procto-pancolitis, which may be infectious or inflammatory in
nature.
2. Moderate splenomegaly up to 14.5 cm.

Microbiology:
C. Diff negative

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   FECAL CULTURE (Preliminary): 
      Reported to and read back by ___ MD (___) AT 
1510 ON
      ___. 
      SHIGELLA SONNEI. 
         Presumptive identification pending confirmation by 
___
         Laboratory. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             SHIGELLA SONNEI
                             |   
AMPICILLIN------------  =>32 R
CIPROFLOXACIN---------     4 R
LEVOFLOXACIN----------   =>8 R
TRIMETHOPRIM/SULFA----  =>16 R

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      MANY POLYMORPHONUCLEAR LEUKOCYTES. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 
 
Brief Hospital Course:
___ M with recent diagnosis of likely microscopic colitis, coming 
in w/ new onset fevers and watery diarrhea, found to have 
resistant shigella sonnei infection, improving clinically.

#Shigella Sonnei Proctocolitis 
#Fevers: Patient presented with symptoms of very frequent watery 
stool and high grade fevers to max of 104 on admission. He was 
initially started on cipro and flagyl, but his culture returned 
with shigella sonnei resistant to fluoroquinolones, Bactrim, and 
ampicillin. However, his symptoms have resolved and he had a 
normal solid BM and was tolerating a regular diet on the day of 
discharge. We decided to not continue any antibiotics given his 
clinical improvement. He should follow up with GI as below and 
his PCP. We also educated him about sexual hygiene given that 
this is a contagious disease.

#Microscopic colitis: Recently seen in GI clinic and they feel 
he may have microscopic colitis and he continues on budesonide 
oral tid with plan to possible perform EGD/colonoscopy in 
outpatient setting to assess for inflammatory or other 
underlying etiology. He will follow up as above with the GI 
team.

CHRONIC/STABLE PROBLEMS:

#GERD - continue PPI and ranitidine 

#Depression/Anxiety - continue home SSRI

#Prophylaxis - continue home Truvada

Transitional Issues:
=============================
[] Had 14 cm spleen incidentally found. Unclear etiology but 
could be reactive in relation to infection. Consider repeat 
imaging as outpatient.

More than 30 minutes were spent preparing this discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Budesonide 3 mg PO TID 
2. Ranitidine 150 mg PO QHS 
3. Omeprazole 20 mg PO BID 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1.  Budesonide 3 mg PO TID  
2.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  Omeprazole 20 mg PO BID  
5.  Ranitidine 150 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Shigellosis
Secondary: Microscopic colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you had diarrhea from an 
infection. You should continue to get better off of antibiotics 
and follow up with your PCP.

We wish you all the best.

Sincerely,

Your care team at ___
 
Followup Instructions:
___